US08685974B2
To a solution of 2-cyclopropylacetic acid (250 mmol) in DCM was added 1 mL of DMF. Oxalyl chloride (312 mmol) was added dropwise and the reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated to afford 30.3 g of the crude acid chloride that was added dropwise to a solution of 4-bromo-2-aminopyridine (202 mmol) and pyridine (506 mol) in 500 mL dichloromethane. The reaction mixture was stirred at room temperature for 4 h. Water was added and the reaction mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by chromatography on silica gel to afford 26.0 g of N-(4-bromopyridin-2-yl)-2-cyclopropylacetamide (50% yield).

reactant | 4-bromo-2-aminopyridine | 202 mmol | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | pyridine | 506 mol | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | N-(4-bromopyridin-2-yl)-2-cyclopropylacetamide | 26.0 g, 50% yield | BrC1=CC(=NC=C1)NC(CC1CC1)=O | C10H11BrN2O
